US09403805B2
To a solution of (2S,4S)-4-azido-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester (11.2 g, 42.1 mmol) in tetrahydrofuran (140 mL) were added triphenyl phosphine (22 g, 83.87 mmol) and water (1.9 mL) and the reaction mixture was refluxed at 75° C. for 6 h. The reaction mixture was diluted with ether, quenched with HCl (0.15 N), stirred for 5 min and extracted with ether. The aqueous layer was treated with sodium bicarbonate solution until pH˜10 and then extracted with dichloromethane. The combined organic layers were dried over anhydrous sodium sulfate and concentrated to give (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester (3 g, 29.6% yield) as a light yellow oil. The compound was used in the next step without further purification. MS calcd. for C13H25N2O2 [(M+H)+] 241.0, obsd. 240.8.

reactant | (2S,4S)-4-azido-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester | 42.1 mmol, 11.2 g | COC(=O)[C@H]1N(C[C@H](C1)N=[N+]=[N-])CC1CCCCC1 | C13H22N4O2
reactant | triphenyl phosphine | 83.87 mmol, 22 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 1.9 mL | O | H2O
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | (2S,4S)-4-amino-1-cyclohexylmethyl-pyrrolidine-2-carboxylic acid methyl ester | 3 g, 29.6% yield | COC(=O)[C@H]1N(C[C@H](C1)N)CC1CCCCC1 | C13H24N2O2
